US09328124B2
5-(5-Fluoropyrimidin-2-yl)-6a-(3-pyridyl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole
A solution of 5-(5-fluoropyrimidin-2-yl)-1-[(4-methoxyphenyl)methyl]-6a-(3-pyridyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole (1.11 g, 2.32 mmol) in trifluoroacetic acid (9.3 mL) is stirred at 60° C. for 1 hour. The solvent is evaporated and the resulting residue is partitioned between dichloromethane (100 mL) and saturated aqueous sodium carbonate solution (25 mL). The organic phase is separated and the aqueous phase is re-extracted twice with dichloromethane (100 mL). The combined organic extracts are dried over magnesium sulfate, filtered, and the solvent evaporated under vacuum to give a residue that is purified by silica gel chromatography using a 0-10% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title compound (0.64 g, 96%). ES/MS (m/e): 288 (M+1).

reactant | 5-(5-fluoropyrimidin-2-yl)-1-[(4-methoxyphenyl)methyl]-6a-(3-pyridyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole | 2.32 mmol, 1.11 g | FC=1C=NC(=NC1)N1CC2(N(OCC2C1)CC1=CC=C(C=C1)OC)C=1C=NC=CC1 | C22H22FN5O2
solvent | trifluoroacetic acid | 9.3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(5-Fluoropyrimidin-2-yl)-6a-(3-pyridyl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole | 0.64 g, 96% | FC=1C=NC(=NC1)N1CC2(NOCC2C1)C=1C=NC=CC1 | C14H14FN5O
